Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with recent STEMI on ___ c/b cardiac arrest 
out-of-hospital (now s/p emergent cath with DES x1 to LAD at 
___, discharged ___, presenting for 
evaluation of ___ chest discomfort over precordium. The patient 
reports that he thinks this is from the chest compressions 
during CPR. It has been present ever since that time (i.e. prior 
to last discharge), however the sensation has not improved over 
the past few days so he wanted to make sure it wasn't another 
heart attack.  
 Regarding the patient's recent STEMI:  
 - Cardiac arrest out-of-hospital  
 - Received thrombolytics in the field  
 - Received rescue PCI post-thrombolytics at ___ 
___ w/ DES x1 to LAD.  
 - Echo showed inferior and inferolateral hypokinesis with 
preserved LV systolic function (EF 55%).  
 - Peak troponin was 11.53, CK-MB 382.8 (CK 5121)  
 In the ED, initial vitals: T 98.5, 66, 110/70, 18, 99%RA  
 - Labs notable for: TropT 0.56, MB 2, otherwise CBC and 
chem-panel wnl, UA wnl.  
 - Imaging notable for: bedside echo with no pericardial 
effusion per ED attending note and a grossly preserved EF. CXR 
with no acute intrathoracic process.  
 On arrival to the floor, pt describes the discomfort as "like 
feeling as if he needs to burp". Exacerbated by lying flat. 
Relieved by sitting forward. No change with exertion (stairs, 
walking). The discomfort has been stable since time of his cath. 
He has been compliant with all of his cardiac medications.
 
Past Medical History:
- CAD s/p STEMI on ___ (c/b cardiac arrest; s/p 1x DES to 
LAD at ___  
- IBS  

 
Social History:
___
Family History:
Grandmother died at age ___ of a heart attack. Mother with CAD in 
___. No other family history of heart problems.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: T 98.1, 112/71, 66, 14, 99%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2. No murmurs. No 
friction rub present in either supine position or sitting 
leaning forward.  
Abdomen: soft, non-tender, non-distended  
Ext: Warm, well perfused, no cyanosis or edema  
Neuro: A&Ox3. Grossly intact.

DISCHARGE PHYSICAL EXAM:
========================
Vitals: Tmax=98.7 HR=65-70 BP=93-112/58-71 RR=16 O2=96-100% on 
RA  
I/O= 480/300 (8hrs), (24hrs)  

General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2. No murmurs. No 
friction rub present in either supine position or sitting 
leaning forward.  
Abdomen: soft, non-tender, non-distended  
Ext: Warm, well perfused, no cyanosis or edema  
Neuro: A&Ox3. Grossly intact. 

 
Pertinent Results:
PERTINENT LABS:
===============
___ 07:30PM BLOOD WBC-6.5 RBC-4.91 Hgb-14.7 Hct-43.5 MCV-89 
MCH-29.9 MCHC-33.8 RDW-13.0 RDWSD-42.1 Plt ___
___ 07:30AM BLOOD Glucose-82 UreaN-17 Creat-1.0 Na-141 
K-4.1 Cl-105 HCO3-24 AnGap-16
___ 07:30PM BLOOD CK-MB-2
___ 07:30PM BLOOD cTropnT-0.56*
___ 07:30AM BLOOD CK-MB-2 cTropnT-0.61*
 
Brief Hospital Course:
___ year-old man s/p STEMI ___ c/b cardiac arrest, received 
lytics and now s/p 1x DES to LAD, presenting with ongoing stable 
low grade chest pain that is unchanged in quality since 
discharge. ECG without any signs of ischemia or pericarditis. 
His pain was intermittent while inpatient with only several 
brief, isolated episodes w/ ___ pain w/o associated dyspnea, 
radiation, nausea, or diaphoresis. Troponins were 0.56 -> 0.61 
from reported peak of 11 during primary admission. CK-MB 2 x2. 
Pain was felt to be primarily musculoskeletal with possible 
component of mild post-infarct pericarditis. Bedside ultrasound 
in the emergency room showed no pericardial effusion and intact 
systolic function. Discharged home with cardiology follow-up as 
schedueled.

TRANSITIONAL ISSUES:
[] Consider repeat TTE to evaluate systolic function
[] On DAPT, please follow-up for at least 12 months

# CONTACT: ___ (mother, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. DICYCLOMine 20 mg PO TID:PRN IBS 
5. Famotidine 20 mg PO BID 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  DICYCLOMine 20 mg PO TID:PRN IBS  
5.  Famotidine 20 mg PO BID  
6.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Musculoskeletal chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___  

___ was a pleasure taking care of you at the ___ 
___! 

Why was I admitted to the hospital?
-You were admitted because you had persistent chest pain.  

What happened while I was in the hospital?
-Your blood work showed you did not have another heart attack

What should I do after leaving the hospital?
-Avoid taking ibuprofen or naproxen for chest pain, you can take 
Tylenol if needed
-Please keep your follow-up appointment with Dr. ___ as 
scheduled below
-Moderate activity is fine, please call your doctor if you 
experiences shortness of breath or chest pressure/pain with 
activity
-Continue taking all your medications as previously prescribed.

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Healthcare Team
 
Followup Instructions:
___